### PR TITLE
perf: speedup bv_decide's LRAT checker by improving input validaton

### PR DESCRIPTION
**Pull request by hargoniX**
This PR achieves a speed up in bv_decide's LRAT checker by improving its input validation.

When the LRAT checker works on a clause it needs to know that the clause has no duplicate literals and is not tautological (i.e. doesn't contain the same variable in different polarities). Previously this was done using a naive quadratic algorithm, now we check the property using a HashMap in linear time. Beyond this there is also a few micro optimizations.
Together they improve the runtime on the SMTLIB problem `non-incremental/QF_BV/20210312-Bouvier/vlsat3_a15.smt2` from `1:25.31` to `1:01.32` minutes (where 39 seconds of this run time are the SAT solver and thus completely unaffected by the optimization)

Co-authored-by: @JOSHCLUNE

### CODE REVIEW

**Comment by hargoniX** [comment]
!bench

File: src/Std/Tactic/BVDecide/LRAT/Internal/Clause.lean [hunk 1]
```diff
@@ -208,98 +206,132 @@ def insert (c : DefaultClause n) (l : Literal (PosFin n)) : Option (DefaultClaus
...
-    simp only [Nat.not_lt, ← List.getElem?_eq_none_iff] at i_in_bounds arr_data_length_le_i
-    rw [i_in_bounds, arr_data_length_le_i]
+    | some map =>
+      let (val?, map) := map.getThenInsertIfNew? l.1 l.2
+      if let some val' := val? then
+        if l.2 != val' then none
+        else some map
+      else some map
+
+theorem aux [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] (m : Std.HashMap α β) :
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/LRAT/Internal/Clause.lean:254]:
```suggestion
private theorem mem_of_getElem?_eq_some [BEq α] [Hashable α] [EquivBEq α] [LawfulHashable α] (m : Std.HashMap α β) :
```

File: src/Std/Tactic/BVDecide/LRAT/Internal/Clause.lean [hunk 2]
```diff
@@ -208,98 +206,132 @@ def insert (c : DefaultClause n) (l : Literal (PosFin n)) : Option (DefaultClaus
...
+    · simp only [HashMap.getThenInsertIfNew?_fst, HashMap.get?_eq_getElem?, bne_iff_ne, ne_eq,
+        HashMap.getThenInsertIfNew?_snd, ite_not] at h
+      split at h
+      · split at h
+        · apply ih
+          · exact h
+          · rw [Std.HashMap.mem_toList_iff_getElem?_eq_some, Std.HashMap.getElem?_insertIfNew]
+            rename_i map _ _ _ _ _
+            have : x.fst ∈ map := by
+              apply aux
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/LRAT/Internal/Clause.lean:290]:
```suggestion
              apply mem_of_getElem?_eq_some
```

File: src/Std/Tactic/BVDecide/LRAT/Internal/PosFin.lean [hunk 3]
```diff
@@ -18,6 +18,9 @@ instance : DecidableEq (PosFin n) :=
 instance : CoeOut (PosFin n) Nat where
   coe p := p.val
 
+instance {n} : Hashable (PosFin n) where
+  hash p := Nat.toUInt64 p.val
```
Comment (bollu) [inline src/Std/Tactic/BVDecide/LRAT/Internal/PosFin.lean:22]: I don't understand this instance, what's wrong with the perfectly good:
```suggestion
instance {n} : Hashable (PosFin n) where
  hash p := hash p.val
```

**Comment by tobiasgrosser** [comment]
It might be useful to add 1-2 sentences to PR to state *how* the input validation is improved.
